US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 5-benzyloxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (0.59 g) and [(4-benzyloxyphenyl)methyl](4-isopropylphenyl)amine (0.58 g) as starting materials, 5-benzyloxy-N-[(4-benzyloxyphenyl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.74 g) was obtained. By the reaction and treatment in the same manner as in Example 17 using this compound, 5-hydroxy-N-[(4-hydroxyphenyl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.33 g) was obtained. melting point: 241-243° C.

reactant | 5-benzyloxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 0.59 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)O | C18H18O3
reactant | [(4-benzyloxyphenyl)methyl](4-isopropylphenyl)amine | 0.58 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CNC1=CC=C(C=C1)C(C)C | C23H25NO
product | 5-benzyloxy-N-[(4-benzyloxyphenyl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.74 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(C1=CC=C(C=C1)C(C)C)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C41H41NO3
